US04942178
Preparation of 3'-isopropyl-2-nitrobenzanilide (Compound No. 2)
One gram of 3-isopropylaniline and 0.8 gram of triethylamine were dissolved in 50 ml of THF, cooled to 0° C. and agitated. A solution prepared by dissolving 1.37 grams of 2-nitrobenzoyl chloride in 20 ml of THF was dropwisely added. After agitating for 30 minutes, the reaction mixture was filtered and THF in the filtrate was distilled off under reduced pressure. The residue was extracted with benzene, and rinsed with 3N-HCl, a saturated sodium bicarbonate solution and water successively in this order. The benzene layer was dried by adding anhydrous magnesium sulfate and then benzene was distilled off under reduced pressure to obtain the desired product. The yield was 1.79 grams (85%), and the product had a melting point of 65.5° to 68.5° C. and an IR absorption peak at 1660 cm-1 (c=0).

reactant | 3-isopropylaniline | One gram | C(C)(C)C=1C=C(N)C=CC1 | C9H13N
reactant | triethylamine | 0.8 gram | C(C)N(CC)CC | C6H15N
reactant | 2-nitrobenzoyl chloride | 1.37 grams | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3'-isopropyl-2-nitrobenzanilide | C(C)(C)C=1C=C(NC(C2=C(C=CC=C2)[N+](=O)[O-])=O)C=CC1 | C16H16N2O3
